### PR TITLE
[Merged by Bors] - feat: port Data.Vector from lean-core

### PR DESCRIPTION
**Pull request by siddhartha-gadgil**
Have also added some needed lemmas for Lists; from e574b1a4e891376b0ef974b926da39e05da12a06

### CODE REVIEW

File: Mathlib/Data/Vector.lean [hunk 1]
```diff
@@ -0,0 +1,257 @@
...
+  (forall {n : ℕ} (v : Vector.{u_1} α n), C n v)
+but is expected to have type
+  forall {α : Type.{_aux_param_0}} {C : forall {n : ℕ}, (Vector.{_aux_param_0} α n) -> Sort.{u}},
+  (forall (l : List.{_aux_param_0} α),
+  C (List.length.{_aux_param_0} α l) (Subtype.mk.{succ _aux_param_0} (List.{_aux_param_0} α)
+  (fun (l_1 : List.{_aux_param_0} α) => Eq.{1} ℕ (List.length.{_aux_param_0} α l_1)
+  (List.length.{_aux_param_0} α l)) l (rfl.{1} ℕ (List.length.{_aux_param_0} α l)))) ->
+  (forall {n : ℕ} (v : Vector.{_aux_param_0} α n), C n v)
+Case conversion may be inaccurate. Consider using '#align vector.elim Vector.elimₓ'. -/
+/-- elimination rule for `Vector` -/
```
Comment (kbuzzard) [inline Mathlib/Data/Vector.lean:114]: Hmm. At the very least a porting note should be made here; it seems that in mathlib3 there is some kind of `vector.elim._proof_1` mentioned in the definition, and in Lean 4 it was replaced by a `rfl`. Hopefully this won't cause any problems though.

**Comment by kbuzzard** [comment]
I am a bit unclear about the rules for adding mathlib3 commit hashes for ports from core; of course there is still some value in them, because a mathlib3 commit hash also ties you to a lean 3 commit.

File: Mathlib/Data/Vector.lean [hunk 2]
```diff
@@ -0,0 +1,257 @@
...
+
+namespace Vector
+
+variable {α : Type u} {β : Type v} {φ : Type w}
+
+variable {n : ℕ}
+
+instance [DecidableEq α] : DecidableEq (Vector α n) := by
+  unfold Vector
+  infer_instance
```
Comment (kbuzzard) [inline Mathlib/Data/Vector.lean:30]: Do we have `@[derive DecidableEq]` in Mathlib4 yet? If so then this could just be put on the `Vector` definition.

File: Mathlib/Data/Vector.lean [hunk 3]
```diff
@@ -0,0 +1,257 @@
...
+
+/-- the empty vector with elements of type `α` -/
```
Comment (kbuzzard) [inline Mathlib/Data/Vector.lean:32]:
```suggestion
/-- The empty vector with elements of type `α`. -/
```

File: Mathlib/Data/Vector.lean [hunk 4]
```diff
@@ -0,0 +1,257 @@
...
+
+/-- If `a : α` and `l : Vector α n`, then `cons a l`, is the vector of length `n + 1`
+whose first element is a and with l as the rest of the list. -/
+@[match_pattern]
+def cons : α → Vector α n → Vector α (Nat.succ n)
+  | a, ⟨v, h⟩ => ⟨a :: v, congrArg Nat.succ h⟩
+#align vector.cons Vector.cons
+
+
+/-- The length of a vector -/
```
Comment (kbuzzard) [inline Mathlib/Data/Vector.lean:46]:
```suggestion
/-- The length of a vector. -/
```

File: Mathlib/Data/Vector.lean [hunk 5]
```diff
@@ -0,0 +1,257 @@
...
+@[reducible, nolint unusedArguments]
+def length (_ : Vector α n) : ℕ :=
+  n
+#align vector.length Vector.length
+
+open Nat
+
+/-- the first element of a vector with length at least `1` -/
```
Comment (kbuzzard) [inline Mathlib/Data/Vector.lean:54]:
```suggestion
/-- The first element of a vector with length at least `1`. -/
```

File: Mathlib/Data/Vector.lean [hunk 6]
```diff
@@ -0,0 +1,257 @@
...
+def head : Vector α (Nat.succ n) → α
+  | ⟨[], h⟩ => by contradiction
+  | ⟨a :: _, _⟩ => a
+#align vector.head Vector.head
+
+/-- the head of a vector obtained by prepending is the element prepended -/
```
Comment (kbuzzard) [inline Mathlib/Data/Vector.lean:60]:
```suggestion
/-- The head of a vector obtained by prepending is the element prepended. -/
```

File: Mathlib/Data/Vector.lean [hunk 7]
```diff
@@ -0,0 +1,257 @@
...
+  | ⟨_, _⟩ => rfl
+#align vector.head_cons Vector.head_cons
+
+/-- the tail of a vector, with an empty vector having empty tail  -/
+def tail : Vector α n → Vector α (n - 1)
+  | ⟨[], h⟩ => ⟨[], congrArg pred h⟩
+  | ⟨_ :: v, h⟩ => ⟨v, congrArg pred h⟩
+#align vector.tail Vector.tail
+
+/-- the tail of a vector obtained by prepending is the vector prepended to -/
```
Comment (kbuzzard) [inline Mathlib/Data/Vector.lean:71]: Note that theorems don't need docstrings although they are most welcome! It's definitions which we demand docstrings for in mathlib4.

Comment (kbuzzard) [inline Mathlib/Data/Vector.lean:71]:
```suggestion
/-- The tail of a vector obtained by prepending is the vector prepended to. -/
```

File: Mathlib/Data/Vector.lean [hunk 8]
```diff
@@ -0,0 +1,257 @@
...
+theorem tail_cons (a : α) : ∀ v : Vector α n, tail (cons a v) = v
+  | ⟨_, _⟩ => rfl
+#align vector.tail_cons Vector.tail_cons
+
+/-- prepending the head of a vector to its tail gives the vector -/
```
Comment (kbuzzard) [inline Mathlib/Data/Vector.lean:76]:
```suggestion
/-- Prepending the head of a vector to its tail gives the vector. -/
```

File: Mathlib/Data/Vector.lean [hunk 9]
```diff
@@ -0,0 +1,257 @@
...
+@[simp]
+theorem cons_head_tail : ∀ v : Vector α (succ n), cons (head v) (tail v) = v
+  | ⟨[], h⟩ => by contradiction
+  | ⟨a :: v, h⟩ => rfl
+#align vector.cons_head_tail Vector.cons_head_tail
+
+/-- list obtained from a vector -/
```
Comment (kbuzzard) [inline Mathlib/Data/Vector.lean:83]:
```suggestion
/-- The list obtained from a vector. -/
```

File: Mathlib/Data/Vector.lean [hunk 10]
```diff
@@ -0,0 +1,257 @@
...
+def toList (v : Vector α n) : List α :=
+  v.1
+#align vector.to_list Vector.toList
+
+/-- nth element of a vector, indexed by a `Fin` type -/
```
Comment (kbuzzard) [inline Mathlib/Data/Vector.lean:88]:
```suggestion
/-- nth element of a vector, indexed by a `Fin` type. -/
```

File: Mathlib/Data/Vector.lean [hunk 11]
```diff
@@ -0,0 +1,257 @@
...
+def nth : ∀ _ : Vector α n, Fin n → α
+  | ⟨l, h⟩, i => l.nthLe i.1 (by rw [h] ; exact i.2)
+#align vector.nth Vector.nth
+
+/-- appending a vector to another -/
```
Comment (kbuzzard) [inline Mathlib/Data/Vector.lean:93]:
```suggestion
/-- Appending a vector to another. -/
```

File: Mathlib/Data/Vector.lean (hunk 1 above)
Comment (kbuzzard) [inline Mathlib/Data/Vector.lean:114]:
```suggestion
/-- Elimination rule for `Vector`. -/
```

File: Mathlib/Data/Vector.lean [hunk 12]
```diff
@@ -0,0 +1,257 @@
...
+/-- elimination rule for `Vector` -/
+@[elab_as_elim]
+def elim {α} {C : ∀ {n}, Vector α n → Sort u}
+    (H : ∀ l : List α, C ⟨l, rfl⟩) {n : ℕ} : ∀ v : Vector α n, C v
+  | ⟨l, h⟩ =>
+    match n, h with
+    | _, rfl => H l
+#align vector.elim Vector.elim
+
+/-- map a vector under a function -/
```
Comment (kbuzzard) [inline Mathlib/Data/Vector.lean:123]:
```suggestion
/-- Map a vector under a function. -/
```

**Review by kbuzzard — APPROVED** [review]
I checked the diff of `Data.Vector` with the mathport output and it looks fine to me. Thanks very much! My comments are entirely superficial; this looks fine to me modulo these. Docstrings in mathlib4 start with a capital letter and finish with a full stop. I think the only thing which gave me pause was why a proof here seems to have trebled in length from the corresponding lean 3 proof.

File: Mathlib/Init/Data/List/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,131 @@
...
+
+universe u v w
+
+namespace List
+
+
+
+open Option Nat
+
+/-- optionally return nth element of a list -/
```
Comment (kbuzzard) [inline Mathlib/Init/Data/List/Basic.lean:25]:
```suggestion
/-- Optionally return nth element of a list. -/
```
etc etc

File: Mathlib/Init/Data/List/Lemmas.lean [hunk 14]
```diff
@@ -0,0 +1,116 @@
...
+/-!
+Lemmas for `List` not (yet) in `Std`
+-/
+
+
+open List Nat
+
+namespace List
+
+/-- length of list obtained by `map₂` on a pair of lists is the length of the shorter of the two -/
```
Comment (kbuzzard) [inline Mathlib/Init/Data/List/Lemmas.lean:21]:
```suggestion
/-- Length of list obtained by `map₂` on a pair of lists is the length of the shorter of the two. -/
```

File: Mathlib/Init/Data/List/Lemmas.lean [hunk 15]
```diff
@@ -0,0 +1,116 @@
...
+@[simp]
+theorem length_map₂ (f : α → β → γ) (l₁) : ∀ l₂, length (map₂ f l₁ l₂) =
+    min (length l₁) (length l₂) := by
+  induction l₁ <;> intro l₂ <;> cases l₂ <;>
+    simp [*, add_one, min_succ_succ, Nat.zero_min, Nat.min_zero]
+#align list.length_map₂ List.length_map₂
+
+/-- length of the list consisting of an element repeated `n` times is `n` -/
+@[simp]
+theorem length_repeat (a : α) (n : ℕ) : length («repeat»  a n) = n := by induction n <;> simp [*]
```
Comment (kbuzzard) [inline Mathlib/Init/Data/List/Lemmas.lean:31]:
```suggestion
theorem length_repeat (a : α) (n : ℕ) : length («repeat»  a n) = n := by
  induction n <;> simp [*]
```

File: Mathlib/Init/Data/List/Lemmas.lean [hunk 16]
```diff
@@ -0,0 +1,116 @@
...
+    show length xs - 1 + 1 = length xs + 1 - 1
+    rw [Nat.add_sub_cancel (length xs) 1]
+    have bd : 1 ≤  length xs := by
+      have bd' : i + 1 ≤ length xs := by assumption
+      have bd'' : 1 ≤ i + 1 := by
+        apply Nat.succ_le_succ
+        apply Nat.zero_le
+      exact Nat.le_trans bd'' bd'
+    exact Nat.sub_add_cancel bd
+    assumption
```
Comment (kbuzzard) [inline Mathlib/Init/Data/List/Lemmas.lean:54]: Why is this proof much longer than the corresponding lean 3 proof? If proofs break then my instinct is not to fix them, it's to try and figure out why they broke.

File: Mathlib/Data/Vector.lean [hunk 17]
```diff
@@ -0,0 +1,257 @@
...
+
+/-- remove the element at position `i` from a vector of length `n`-/
+def removeNth (i : Fin n) : Vector α n → Vector α (n - 1)
+  | ⟨l, p⟩ => ⟨List.removeNth l i.1, by rw [l.length_remove_nth i.1] <;> rw [p] ; exact i.2⟩
+#align vector.remove_nth Vector.removeNth
+
+/-- vector of length `n` from a function on `Fin n`-/
+def ofFn : ∀ {n}, (Fin n → α) → Vector α n
+  | 0, _ => nil
+  | _ + 1, f => cons (f 0) (ofFn fun i => f i.succ)
```
[the remark this answers is not in the document]
Comment (siddhartha-gadgil) [reply Mathlib/Data/Vector.lean:167]: Yes, it does

File: Mathlib/Init/Data/List/Lemmas.lean (hunk 16 above)
Comment (siddhartha-gadgil) [reply Mathlib/Init/Data/List/Lemmas.lean:54]: The difference is length is mainly my lack of skill with tactic proofs. Probably `simp` and `rw` invoked with the correct lemmas will finish after the `dsimp`

File: Mathlib/Data/Vector.lean (hunk 1 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Vector.lean]: Where should the porting note go? I kept the comment which I believe was made by @gebner in mathlib3port.

**Comment by siddhartha-gadgil** [comment]
> I am a bit unclear about the rules for adding mathlib3 commit hashes for ports from core; of course there is still some value in them, because a mathlib3 commit hash also ties you to a lean 3 commit.

I added the SHA in the commit description. Is that the correct place?

File: Mathlib/Init/Data/List/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,131 @@
...
+
+/-- List with a single given element. -/
+@[inline]
+protected def ret {α : Type u} (a : α) : List α :=
+  [a]
+#align list.ret List.ret
+
+/-- Less-than-or-equal for lists. -/
+@[reducible]
+protected def Le [LT α] (a b : List α) : Prop :=
```
[the remark this answers is not in the document]
Comment (siddhartha-gadgil) [reply Mathlib/Init/Data/List/Basic.lean:119]: In analogy with `Nat.le` it seems `List.le` is correct, and was already defined in Lean 4. One of the above theorems also was defined already once the case correction was made.

**Comment by ChrisHughes24** [comment]
bors merge
